US04097504
A solution of diethyl 2-acetyl-2-(4-acetoxy-2-nonyn-1-yl)azelate (59.7 g., 0.128 mole) and sodium hydroxide (30 g., 0.75 mole) in water (200 ml.) and methanol (800 ml.) is heated at 60° for 16 hours. Most of the methanol is then distilled at reduced pressure and the residue is dissolved in water. The solution is acidified to Congo Red with hydrochloric acid and the oily product taken up in ether and dried over sodium sulfate. Evaporation of the ether leaves 41.1 g. of the crude product as a redish viscous oil. The product is purified by chromatography on 650 g. of silica gel with 2% methanol in chloroform as eluant. Fifteen grams of pure 8-acetyl-12-hydroxy-10-heptadecynoic acid is obtained as a yellow viscous oil; pmr (CDCl3) δ 0.90 (3H,t), 2.20 (3H,s CH3CO), 4.37 (1H,t HCO).

reactant | diethyl 2-acetyl-2-(4-acetoxy-2-nonyn-1-yl)azelate | 0.128 mole, 59.7 g | C(C)(=O)C(C(=O)OCC)(CCCCCCC(=O)OCC)CC#CC(CCCCC)OC(C)=O | C26H42O7
reactant | sodium hydroxide | 0.75 mole, 30 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | methanol | 800 ml | CO | CH4O
product | 8-acetyl-12-hydroxy-10-heptadecynoic acid | Fifteen grams | C(C)(=O)C(CCCCCCC(=O)O)CC#CC(CCCCC)O | C19H32O4
